* source FILTER
L_L1         N14552 N14471  1u  
R_Rdamp         N14467 N14471  200 TC=0,0 
R_Rload         0 N14502  150 TC=0,0 
L_L2         N14471 N46457  1.5u  
C_C1         0 N14467  70p  TC=0,0 
V_V1         N14552 0  
+PULSE 0 60 0 3n 3n 14n 20n
R_Rshunt         N46457 N14502  0.1 TC=0,0 
V_V4         VCC_ARROW 0 30
V_V5         VCC 0 -30
R_R2         N49514 N46457  1k TC=0,0 
R_R1         N49541 N14502  1k TC=0,0 
R_R3         N49627 N49541  1k TC=0,0 
R_R4         N49514 0  1k TC=0,0 
X_U4         N49514 N49541 VCC_ARROW VCC N49627 AD8004AN/AD
X_U5         N53122 N53126 VCC_ARROW VCC N53244 AD8004AN/AD
R_R6         N53126 N53508  10001 TC=0,0 
R_R8         N53244 N53126  9999 TC=0,0 
R_R7         N53122 0  10001 TC=0,0 
R_R5         N53122 N80210  9999 TC=0,0 
C_C2         N49514 0  30p  TC=0,0 
C_C3         N49541 N49627  30p  TC=0,0 
X_U6         0 N71363 VCC_ARROW VCC N71372 AD8004AN/AD
R_R9         N53244 N71363  1.0001k TC=0,0 
R_R10         N71363 N71372  999.9 TC=0,0 
C_C6         N71363 N71372  {1.001p*3}  TC=0,0 
R_R11         N76028 N14502  10.001k TC=0,0 
R_R12         N76024 N46457  9999 TC=0,0 
R_R13         N76024 0  1000.1 TC=0,0 
R_R14         N76176 N76028  999.9 TC=0,0 
X_U7         N76024 N76028 VCC_ARROW VCC N76176 AD8004AN/AD
C_C7         N80210 N46457  0.01p  TC=0,0 
C_C8         N53508 N14502  0.01p  TC=0,0 
C_C9         N76176 N76028  0.01p  TC=0,0 
C_C10         N76024 0  0.01p  TC=0,0 
